US05354549
Acetyloxvmethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate
Chloromethylacetate (Neuenschwander, Markus et. al., Helv. Chim. Acta, 61 (1978) 2047) (2.30 g, 21.2 mmol) in dry DMF (100 ml) is added dropwise at 50° C. to a solution of cesium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (13.4 g, 17.7 mmol) and sodium iodide (133 mg, 0.89 mmol) in dry DMF (210 ml). The precipitate is removed by filtration after stirring for 21 hours and the solvent is removed at reduced pressure. The residue is dissolved in chloroform (200 ml) and washed four times with a saturated sodium hydrogen carbonate solution. After drying with magnesium sulfate the solvent is removed at reduced pressure to give the title compound:

reactant | Chloromethylacetate | 21.2 mmol, 2.30 g | ClCOC(C)=O | C3H5ClO2
reactant | cesium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 17.7 mmol, 13.4 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[Cs+]
reactant | sodium iodide | 0.89 mmol, 133 mg | [I-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 210 ml | CN(C)C=O | C3H7NO
product | Acetyloxvmethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OCOC(C)=O)I)N(C)C(C)=O)I | C15H15I3N2O6
